US08232312B2
tert.butyl [(3,5-dichloro-phenylsulphonyl)-(3-hydroxymethyl-1-methylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-acetate
110 mg methyl 5-[tert-butoxycarbonylmethyl-(3,5-dichloro-phenylsulphonyl)-amino]-1-methylcarbamoyl-2,3-dihydro-1H-indole-3-carboxylate are dissolved in 3 ml of tetrahydrofuran, cooled to 0° C., combined with 4.2 mg lithium borohydride and stirred for 1 hour. Then the mixture is allowed to come up to ambient temperature and stirred overnight. Then it is divided between ethyl acetate and ice water, the pH is adjusted to 4 by the addition of citric acid and the phases are separated. The organic phase is washed with water and saturated sodium chloride solution, dried on magnesium sulphate and freed from the solvents in vacuo. The residue is chromatographed on silica gel (ethyl acetate).

reactant | methyl 5-[tert-butoxycarbonylmethyl-(3,5-dichloro-phenylsulphonyl)-amino]-1-methylcarbamoyl-2,3-dihydro-1H-indole-3-carboxylate | 110 mg | C(C)(C)(C)OC(=O)CN(C=1C=C2C(CN(C2=CC1)C(NC)=O)C(=O)OC)S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl | C24H27Cl2N3O7S
reactant | lithium borohydride | 4.2 mg | [BH4-].[Li+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | tert.butyl [(3,5-dichloro-phenylsulphonyl)-(3-hydroxymethyl-1-methylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-acetate | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2C(CN(C2=CC1)C(NC)=O)CO)CC(=O)OC(C)(C)C | C23H27Cl2N3O6S
